2182-04-29 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - switched IVF to D5 this AM as CBG < 250
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 21.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-29**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   HR: 104 (97 - 115) bpm
   BP: 121/57(73) {117/57(73) - 134/72(87)} mmHg
   RR: 15 (14 - 20) insp/min
   SpO2: 98%
             Total In:
             2,608 mL
   PO:
             TF:
   IVF:
   2,608 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,800 mL
   Urine:
   800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    808 mL
   Respiratory support
   SpO2: 98%
   ABG: ///12/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   288 K/uL
   15.5 g/dL
   192 mg/dL
   1.0 mg/dL
   12 mEq/L
   3.8 mEq/L
   16 mg/dL
   114 mEq/L
   143 mEq/L
   46.3 %
   17.9 K/uL
        [image002.jpg]
                             [**2182-4-29**]  03:30 AM
                             [**2182-4-29**]  06:12 AM
   WBC
   17.9
   Hct
   46.3
   Plt
   288
   Cr
   1.3
   1.0
   Glucose
   348
   192
   Other labs: Differential-Neuts:89.5 %, Lymph:4.9 %, Mono:5.1 %, Eos:0.3
   %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:0.8 mg/dL
   Assessment and Plan
   31 yo M h/o DM2 p/w DKA without a clear precipitant.
   .
   # DKA
 Likely [**2-26**] true DM1 vs. flatbush (ketosis-prone DM2) diabetes.
   Presented in DKA with AG of 38, HCO3 of 5, urine ketones and serum
   glucose of 674.  No clear precipitant such as infection, MI though has
   elevated WBC which may be a stress response.
   - insulin gtt until gap closed, patient taking POs
   - NPO pending improvement of glycemic control
   - q1h fingersticks
   - q4h Chem-7 with aggressive potassium repletion
   - f/up HbA1C level
   - [**Last Name (un) 294**] consult in AM
   - IVFs, will switch to D10 at 500 cc/hr to maintain adequate glucose
   administration
   - SW consult given patient's lack of insurance
   - nutrition consult for diabetic teaching
   .
   # ARF
 Likely secondary to hypovolemia in the setting of DKA.
   Improving with aggressive hydration.
   - trend Cr
   - IVFs
   .
   # social situation
 Patient is currently unemployed and without
   insurance.
   - social work consult
   .
   # FEN: IVF with potassium / phosphate repletion, NPO
   .
   # PPx: HSQ
   # Access: PIV
   # Code:  Full Code, confirmed with patient.  ICU consent signed.
   # Communication: Patient, Wife
   # Disposition: pending resolution of DKA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-29**] 04:01 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2182-04-30 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Last Name (un) 294**] recs: switch to D5, see how he dose, 10u/hr goal for insulin
   drip, wait and couple of hour to give SQ Insulin, think this is Type I
   - gap closed with hydration
   - okay to feed, on DM diet
   - had variable sugar level throughout, will wean SQ insulin.
   - received 30u glargine at 1220 AM, still on 10u/hr insulin gtt with D5
   IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-30**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-30**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 84 (71 - 103) bpm
   BP: 107/66(76) {100/52(65) - 120/68(79)} mmHg
   RR: 16 (6 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 10,580 mL
                                                                  1,713 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                 10,100 mL
                                                                  1,593 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                  2,450 mL
   Urine:
                                                                  3,300 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,280 mL
                                                                   -737 mL
   Respiratory support
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   12.9 g/dL
   121 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.3 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   37.0 %
   10.0 K/uL
        [image002.jpg]
   CBGs: 140, 81, 82, 109, 182, 198, 174, 121, 113, 112, 76 (@0600)
                             [**2182-4-29**]  03:30 AM
                             [**2182-4-29**]  06:12 AM
                             [**2182-4-29**]  09:59 AM
                             [**2182-4-29**]  02:28 PM
                             [**2182-4-29**]  07:15 PM
                             [**2182-4-30**]  03:58 AM
   WBC
   17.9
   10.0
   Hct
   46.3
   37.0
   Plt
   288
   197
   Cr
   1.3
   1.0
   0.9
   0.8
   0.8
   0.8
   Glucose
   348
   192
   215
   273
   171
   121
   Other labs: PT / PTT / INR:11.6/29.0/1.0, Differential-Neuts:89.5 %,
   Lymph:4.9 %, Mono:5.1 %, Eos:0.3 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan
   31 yo M h/o DM2 p/w DKA without a clear precipitant.
   .
   # DKA
 Likely [**2-26**] true DM1 vs. flatbush (ketosis-prone DM2) diabetes.
   Presented in DKA with AG of 38, HCO3 of 5, urine ketones and serum
   glucose of 674.  No clear precipitant such as infection, MI though has
   elevated WBC which may be a stress response.  HbA1c = 13.0%.
   - gap now closed, transition to SQ insulin [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**] recs
   - tolerating POs
   - q1h fingersticks while in ICU
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 294**] recs
   - SW consult given patient's lack of insurance
   - nutrition consult for diabetic teaching
   .
   # ARF
 Likely secondary to hypovolemia in the setting of DKA.
   Improved with aggressive hydration.
   .
   # social situation
 Patient is currently unemployed and without
   insurance.
   - social work consult
   .
   # FEN: IVF with potassium / phosphate repletion, NPO
   .
   # PPx: HSQ
   # Access: PIV
   # Code:  Full Code, confirmed with patient.  ICU consent signed.
   # Communication: Patient, Wife
   # Disposition: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-29**] 04:01 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical care addendum
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:
   Cr has normalized with aggressive resuscitation.  AG closed and insulin
   drip now off.  Tolerating PO diet.
   AF 110/60  88  16  99% RA
   Alert NAD
   CTA
   RR no m
   + BS, soft, NT
   Labs: wbc 10.0 (18), hct 37, cr 0.8, AG closed, ua neg, HbA1C 13
   A/P: 31M noncompliant with metformin, presents with DKA.  No obvious
   infectious etiology to explain his presentation.  Is most likely [**2-26**]
   med non-compliance and suspect he has DM type 1 rather than T2DM.
   He has been adequately volume resuscitated and is now off insulin gtt
   and tolerating a PO diet.  We will continue lantus/sq, monitoring
   finger sticks. His uop is excellent and ARF has resolved.  Will dc d5w
   gtt.  Replete lytes/phos.  [**Last Name (un) 294**] input appreciated and pt will benefit
   from continued diabetic teaching. Social work is following to assist
   with insurance issues and medication needs. Stable for floor transfer.
   OOB.
   Remainder of plan as outlined in resident note.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2182-4-30**] 01:18 PM ------

2182-05-01 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - d/ced insulin gtt, changed to SQ insulin with SSI + PM glargine [**First Name8 (NamePattern2) 24**]
   [**Last Name (un) 294**] recs
   - called out but no bed available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-30**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 67 (65 - 106) bpm
   BP: 107/51(65) {105/51(65) - 123/67(78)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 74.7 kg
                  Total In:
                                                                  2,750 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  2,150 mL
   Blood products:
   Total out:
                                                                  7,050 mL
                                                                    500 mL
   Urine:
                                                                  7,050 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,300 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GEN: NAD
   CV: RRR
   RESP: CTAB
   ABD: S, NT/ND
   EXT: WWP
   Labs / Radiology
   175 K/uL
   13.0 g/dL
   219 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   6 mg/dL
   101 mEq/L
   140 mEq/L
   37.0 %
   4.3 K/uL
        [image002.jpg]
   7AM: 74    11AM: 344     5PM: 192      5AM: 219
                             [**2182-4-29**]  03:30 AM
                             [**2182-4-29**]  06:12 AM
                             [**2182-4-29**]  09:59 AM
                             [**2182-4-29**]  02:28 PM
                             [**2182-4-29**]  07:15 PM
                             [**2182-4-30**]  03:58 AM
                             [**2182-5-1**]  05:05 AM
   WBC
   17.9
   10.0
   4.3
   Hct
   46.3
   37.0
   37.0
   Plt
   288
   197
   175
   Cr
   1.3
   1.0
   0.9
   0.8
   0.8
   0.8
   0.6
   Glucose
   348
   192
   215
   273
   171
   121
   219
   Other labs: PT / PTT / INR:11.6/29.0/1.0, Differential-Neuts:89.5 %,
   Lymph:4.9 %, Mono:5.1 %, Eos:0.3 %, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   31 yo M h/o DM2 p/w DKA without a clear precipitant.
   .
   # DKA
 Likely [**2-26**] true DM1 vs. flatbush (ketosis-prone DM2) diabetes.
   Presented in DKA with AG of 38, HCO3 of 5, urine ketones and serum
   glucose of 674.  No clear precipitant such as infection, MI though has
   elevated WBC which may be a stress response.  HbA1c = 13.0%.  Gap
   closed successfully, now off insulin gtt and stabilizing on SQ insulin
   regimen.
   - titrate insulin regimen [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**] recs
   - tolerating POs; continue diabetic diet
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 294**] recs prior to discharge
   - SW consult given patient's lack of insurance
   - nutrition consult for diabetic teaching
   .
   # ARF
 Likely secondary to hypovolemia in the setting of DKA.
   Improved with aggressive hydration.
   .
   # social situation
 Patient is currently unemployed and without
   insurance.
   - social work consult
   .
   # FEN: diabetic diet, replete lytes PRN
   # PPx: HSQ
   # Access: PIV
   # Code:  Full Code, confirmed with patient.
   # Communication: Patient, Wife
   # Disposition: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-29**] 04:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: